US08293897B2
Step 4) 1-(phenylcarbamoyl)cyclopropanecarboxylic acid
To a solution of ethyl 1-(phenyl carbamoyl)cyclopropane carboxylate (13 g, 55.79 mmol) in ethanol/THF (1/1, 100 mL) was added KOH (4.69 g, 83.69 mmol) in H2O (8 mL) and the mixture was stirred at room temperature overnight. The ethanol and THF were removed under reduced pressure. The residue was neutralized with HCl (5 mol/L, 20 mL), and extracted with EtOAc (150 mL×3). The combined organic phases were dried over Na2SO4, filtered and the filtrate was concentrated in vacuo to afford the title compound as a white solid (10.1 g, 88.6%).

reactant | ethyl 1-(phenyl carbamoyl)cyclopropane carboxylate | 55.79 mmol, 13 g | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)OCC | C13H15NO3
reactant | KOH | 83.69 mmol, 4.69 g | [OH-].[K+]
solvent | ethanol THF | 100 mL | C(C)O.C1CCOC1
solvent | H2O | 8 mL | O | H2O
product | 1-(phenylcarbamoyl)cyclopropanecarboxylic acid | 10.1 g, 88.6% | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H11NO3
